US06777421B2
To a mixture of 2-bromobenzaldehyde (0.32 mL, 2.70 mmol) and 3 mL of 2 M aqueous sodium carbonate in 15 mL of toluene was added thiophene-3-boronic acid (384 mg, 3.00 mmol) in ethanol (3 mL). The mixture was stirred and then treated with tetrakis(triphenylphosphine)palladium (0) (93.0 mg, 3 mole %) and heated to reflux under nitrogen atmosphere for 4.5 hr. The resulting solution was cooled to room temperature, the dark brown reaction mixture was diluted with ethyl acetate (75 mL) and washed with water (2×75 mL). The organic phase was dried over Na2SO4, filtered and concentrated in vacuo to yield 2-(3-thienyl)benzaldehyde as a brown oil.

reactant | 2-bromobenzaldehyde | 2.70 mmol, 0.32 mL | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | sodium carbonate | 2 M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | thiophene-3-boronic acid | 3.00 mmol, 384 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 93.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(3-thienyl)benzaldehyde | S1C=C(C=C1)C1=C(C=O)C=CC=C1 | C11H8OS
